US06440440B1
The Grignard reaction was started with magnesium (0.08 mol) and a few ml of a mixture of 4-bromobiphenyl (0.08 mol) in THF (150 ml). Then the rest of the mixture of 4-bromobiphenyl in THF was added dropwise. The resulting reaction mixture was stirred and refluxed for 1 hour and then cooled. 1-(2,4-dichlorophenyl)-3-[4-[2-(dimethylamino)ethyl]-1-piperidinyl]-1-propanone dihydrochloride (0.023 mol) dissolved in diethyl ether (50 ml) was added dropwise. The mixture was stirred and refluxed for 1 hour, then cooled, decomposed with NH4Cl 10% and stirred. A diluted aqueous HCl solution was added. The mixture was stirred for a while. The organic layer was separated, washed with H2O, dried and filtered. The filtrate was saturated with HCl/2-propanol. The precipitate was filtered off and crystallized from CH3OH and diethyl ether. The precipitate was filtered off and dried, yielding 1.05 g (7.8%) of (±)-α-[(1,1 ′-biphenyl)-4-yl]-a-(2,4-dichlorophenyl)-4-[2-(dimethylamino)ethyl]-1-piperidine-propanol dihydrochloride (comp. 34).

reactant | magnesium | 0.08 mol | [Mg] | Mg
reactant | 4-bromobiphenyl | 0.08 mol | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
reactant | 1-(2,4-dichlorophenyl)-3-[4-[2-(dimethylamino)ethyl]-1-piperidinyl]-1-propanone dihydrochloride | 0.023 mol | Cl.Cl.ClC1=C(C=CC(=C1)Cl)C(CCN1CCC(CC1)CCN(C)C)=O
reactant | NH4Cl | [NH4+].[Cl-]
reactant | HCl | Cl | ClH
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | (±)-α-[(1,1 ′-biphenyl)-4-yl]-a-(2,4-dichlorophenyl)-4-[2-(dimethylamino)ethyl]-1-piperidine-propanol dihydrochloride | 1.05 g, 7.8% | Cl.Cl.C1(=CC=C(C=C1)C(CCN1CCC(CC1)CCN(C)C)(O)C1=C(C=C(C=C1)Cl)Cl)C1=CC=CC=C1 | InChI=1S/C30H36Cl2N2O.2ClH/c1-33(2)18-14-23-15-19-34(20-16-23)21-17-30(35,28-13-12-27(31)22-29(28)32)26-10-8-25(9-11-26)24-6-4-3-5-7-24;;/h3-13,22-23,35H,14-21H2,1-2H3;2*1H
